US08440666B2
Ethyl 2-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetate
4-Bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one (600 mg, 1.84 mmol) in N,N-dimethylformamide (6 mL) was mixed with ethyl bromoacetate (306 μL, 2.76 mmol) and potassium carbonate (381 mg, 2.76 mmol) at room temperature and stirred at 80° C. for 1.5 hours. After cooling, the reaction solution was mixed with saturated aqueous ammonium chloride and extracted with ethyl acetate. The resulting organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform/ethyl acetate=8/1) to give the desired product (670 mg, 88% yield).

reactant | 4-Bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 1.84 mmol, 600 mg | BrC=1C(NN=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O | C14H20BrN3O
reactant | ethyl bromoacetate | 2.76 mmol, 306 μL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 2.76 mmol, 381 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetate | 670 mg, 88% yield | BrC1=C(C=NN(C1=O)CC(=O)OCC)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C18H26BrN3O3
